US04894386
Sodium hydride (0.15 g of a 60% dispersion in mineral oil) was added to a stirred solution of E,E-3,6-di(3-oxo-3-pyrrolidino-1-propenyl)indole (0.97 g) in N,N-dimethylformamide (30 ml) cooled in an ice bath. After approximately 1 hr a solution of methyl-4-bromomethyl-3-methoxybenzoate (0.74 g) in N,N-dimethylformamide (10 ml) was added dropwise, the cooling bath was removed, and the mixture stirred for hr. The mixture was added slowly to vigorously stirred 1M hydrochloric acid (300 ml); the precipitate was isolated by filtration, washed with water and dried. The solid obtained was recrystallized from ethyl acetate to give methyl E,E-4-[3,6-di(3-oxo-3-pyrrolidino-1-propenyl)indol-1-ylmethyl]-3-methoxybenzoate (1.1 g, 76%) as an off-white powder; mp 226°-228°; partial NMR (250 MHz, DMSO-d6): 1.70°-2.0(m, 8H, pyrrolidino H), 3.40(m, 4H, pyrrolidino H), 3.65(m, 4H, pyrrolidino H), 3.83(s, 3H, OCH3), 3.95(s, 3H, OCH3), 5.50(s, 2H, NCH2Ar), 6.75(d, J=15.5 Hz, 1H, olefinic H), 7.0(m, 2H, olefinic H, and ArH).

reactant | Sodium hydride | [H-].[Na+]
reactant | E,E-3,6-di(3-oxo-3-pyrrolidino-1-propenyl)indole | 0.97 g | O=C(/C=C/C1=CNC2=CC(=CC=C12)\C=C\C(=O)N1CCCC1)N1CCCC1 | C22H25N3O2
reactant | methyl-4-bromomethyl-3-methoxybenzoate | 0.74 g | COC(C1=CC(=C(C=C1)CBr)OC)=O | C10H11BrO3
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | methyl E,E-4-[3,6-di(3-oxo-3-pyrrolidino-1-propenyl)indol-1-ylmethyl]-3-methoxybenzoate | 1.1 g, 76% | O=C(/C=C/C1=CN(C2=CC(=CC=C12)\C=C\C(=O)N1CCCC1)CC1=C(C=C(C(=O)OC)C=C1)OC)N1CCCC1 | C32H35N3O5
